US05217969
Using the procedure described in Example 11, 7-bromo-4-methyl-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one was reacted with 4-(5-fluoro-3-mercaptophenyl)-4-methoxytetrahydropyran to give 4-[5-fluoro-3-(4-methyl-3-oxo-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran in 4% yield, m.p. 127°-128° C.

reactant | 7-bromo-4-methyl-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one | BrC1=CC=2OCC(N(C2N=C1)C)=O | C8H7BrN2O2
reactant | 4-(5-fluoro-3-mercaptophenyl)-4-methoxytetrahydropyran | FC=1C=C(C=C(C1)C1(CCOCC1)OC)S | C12H15FO2S
product | 4-[5-fluoro-3-(4-methyl-3-oxo-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran | 4% yield | FC=1C=C(C=C(C1)C1(CCOCC1)OC)SC1=CC=2OCC(N(C2N=C1)C)=O | C20H21FN2O4S
